US08227458B2
trans-4-(Pyrazin-2-yloxy)-cyclohexanecarboxylic acid hydrazide
A mixture of cis/trans-4-(pyrazin-2-yloxy)-cyclohexanecarboxylic acid ethyl ester (1.11 g, 4.41 mmol) and hydrazine hydrate (0442 g, 8.83 mmol) was heated at 120° C. for 72 h. After cooling to room temperature the reaction mixture was partitioned between ethyl acetate (50 ml) and water (30 ml). The organic layer was separated. The aqueous layer was extracted with two 50 ml portions of ethyl acetate. The combined organic layers were washed with brine (30 ml), dried over anhydrous sodium sulfate and concentrated in vacuo. The crude cis/trans-hydrazide was triturated in ethyl acetate (5 ml). The precipitate was collected by filtration and dried in vacuo to give the crude title compound (0.236 g, 23%) as white solid, which was used in the next step without further purification. MS m/e: 237 (M+H+)

reactant | trans-4-(pyrazin-2-yloxy)-cyclohexanecarboxylic acid ethyl ester | 4.41 mmol, 1.11 g | C(C)OC(=O)[C@@H]1CC[C@H](CC1)OC1=NC=CN=C1 | C13H18N2O3
reactant | hydrazine hydrate | 8.83 mmol | O.NN
product | trans-4-(Pyrazin-2-yloxy)-cyclohexanecarboxylic acid hydrazide | 0.236 g, 23% | N1=C(C=NC=C1)O[C@@H]1CC[C@H](CC1)C(=O)NN | C11H16N4O2
